US08461179B1
2-(4-Fluoro-2-methyl-5-nitrophenyl)acetic acid (18.43 g, 86.5 mmol) and conc. H2SO4 (4.00 mL) were combined in EtOH (300 mL) and heated at 85° C. for 2.5 h. The mixture was cooled to RT, concentrated, the residue dissolved in MTBE and washed with H2O (2×), then brine (2×), dried (MgSO4), and evaporated to afford ethyl 2-(4-fluoro-2-methyl-5-nitrophenyl)acetate (16.79 g, 81% yield) as a dark orange oil which was used without further purification. MS (ESI) m/z: 242.0 (M+H)+.

reactant | 2-(4-Fluoro-2-methyl-5-nitrophenyl)acetic acid | 86.5 mmol, 18.43 g | FC1=CC(=C(C=C1[N+](=O)[O-])CC(=O)O)C | C9H8FNO4
reactant | H2SO4 | 4.00 mL | OS(=O)(=O)O | H2O4S
reactant | EtOH | 300 mL | CCO | C2H6O
product | ethyl 2-(4-fluoro-2-methyl-5-nitrophenyl)acetate | 16.79 g, 81% yield | FC1=CC(=C(C=C1[N+](=O)[O-])CC(=O)OCC)C | C11H12FNO4
